US07935815B2
Synthesis of methyl 5-chloro-2-cyclohexyl-valerate
n-Butyl lithium (2.64 M solution in hexane, 3.8 ml) was added dropwise to a solution of diisopropylamine (1.55 ml) in THF (15 ml) under ice-cooling, and the reaction solution was stirred at the same temperature for 10 minutes. The reaction solution was cooled to −78° C. Then, a solution of methyl cyclohexylacetate (CAS No. 14352-61-5, 500 mg) in THF (3 ml) was added dropwise and the reaction solution was stirred at the same temperature for 30 minutes. Then, 1-chloro-3-iodopropane (CAS No. 6940-76-7, 1.1 ml) was added dropwise to the reaction solution. The reaction solution was stirred at the same temperature for 20 minutes and then gradually heated to room temperature. Water and ethyl acetate were added to the reaction solution, and the organic layer was separated. The organic layer was sequentially washed with 1 N hydrochloric acid, water, a saturated sodium bicarbonate solution and brine, dried over anhydrous magnesium sulfate and then concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (elution solvent: hexane-diethyl ether system) to obtain 1.00 g of the title compound. The property value of the compound is as follows.

reactant | n-Butyl lithium | 2.64 M, 3.8 ml | C(CCC)[Li]
reactant | diisopropylamine | 1.55 ml | C(C)(C)NC(C)C | C6H15N
reactant | methyl cyclohexylacetate | C1(CCCCC1)CC(=O)OC | C9H16O2
reactant | 1-chloro-3-iodopropane | ClCCCI | C3H6ClI
solvent | THF | 15 ml | C1CCOC1 | C4H8O
solvent | THF | 3 ml | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | Water | O | H2O
product | methyl 5-chloro-2-cyclohexyl-valerate | 1.00 g | ClCCCC(C(=O)OC)C1CCCCC1 | C12H21ClO2
